### PR TITLE
Theory of stability of a subspace by a matrix representing an endomorphism.

### PR DESCRIPTION
**Pull request by CohenCyril**
##### Motivation for this change

Added `stablemx` notation and a few lemmas about it.
Part of #207

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [x] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/algebra/mxalgebra.v [hunk 1]
```diff
@@ -100,6 +100,8 @@ From mathcomp Require Import div prime binomial ssralg finalg zmodp matrix.
 (*                   mxsum_expr. The structure also recognizes sums of       *)
 (*                   matrix ranks, so that lemmas concerning the rank of     *)
 (*                   direct sums can be used bidirectionally.                *)
+(*  stablemx V f <=> the matrix f represents a endomorphism that preserves V *)
```
Comment (ybertot) [inline mathcomp/algebra/mxalgebra.v:103]: "a endomorphism" looks like an English mistake to me, "an endomorphism" would feel more idiomatic.

File: mathcomp/algebra/mxalgebra.v [hunk 2]
```diff
@@ -2206,6 +2214,66 @@ Notation "\bigcap_ ( i 'in' A | P ) B" :=
...
+Lemma stablemxM : stablemx V f -> stablemx V g -> stablemx V (f *m g).
+Proof. by move=> f_stab /(submx_trans _)->//; rewrite mulmxA submxMr. Qed.
+
+Lemma stablemxD : stablemx V f -> stablemx V g -> stablemx V (f + g).
+Proof. by move=> f_stab g_stab; rewrite mulmxDr addmx_sub. Qed.
+
+Lemma stablemxN : stablemx V (- f) = stablemx V f.
+Proof. by rewrite mulmxN eqmx_opp. Qed.
+
+Lemma stablemxC x : stablemx V x%:M.
```
Comment (ybertot) [inline mathcomp/algebra/mxalgebra.v:2245]: Out of curiosity, where was the convention for the use of 'C' for the presence of x%:M described?

**Review by ybertot — CHANGES_REQUESTED** [review]
LGTM,
a small correction in English.

File: mathcomp/algebra/mxalgebra.v (hunk 1 above)
Comment (gares) [inline mathcomp/algebra/mxalgebra.v:103]:
```suggestion
(*  stablemx V f <=> the matrix f represents an endomorphism that preserves V *)
```

File: mathcomp/algebra/mxalgebra.v (hunk 2 above)
Comment (pi8027) [reply mathcomp/algebra/mxalgebra.v:2245]: The suffix `C` is also extensively used in lemmas about `x%:P` in `poly.v`. `C` stands for "constant" in both cases but it has not been documented in the contribution guide.

File: mathcomp/algebra/mxalgebra.v (hunk 1 above)
Comment (CohenCyril) [reply mathcomp/algebra/mxalgebra.v]: fixed

**Comment by CohenCyril** [comment]
I fixed the typo

**Review by ybertot — APPROVED** [review]
LGTM

**Comment by CohenCyril** [comment]
@gares any obstacle left to merging?
